US06051712
In an analogous manner to that described in Example 1 g), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate [Example 123 b)] with 2-chloromethyl-4,8-dimethoxy-naphthalene there was obtained tert-butyl (3RS,4RS)-3-(4,8-dimethoxy-naphthalen-2-ylmethoxy)-4-{4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl}-piperidine-1-carboxylate as a beige solid; MS: 648 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC=1SC=CC1)C(=O)OC(C)(C)C | C24H33NO5S
reactant | 2-chloromethyl-4,8-dimethoxy-naphthalene | ClCC1=CC2=C(C=CC=C2C(=C1)OC)OC | C13H13ClO2
product | tert-butyl (3RS,4RS)-3-(4,8-dimethoxy-naphthalen-2-ylmethoxy)-4-{4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl}-piperidine-1-carboxylate | COC1=CC(=CC2=C(C=CC=C12)OC)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC=1SC=CC1)C(=O)OC(C)(C)C | C37H45NO7S
